US06951865B2
tert-Butyl N-(3-pyridyl)carbamate
Sodium bis(trimethylsilyl)amide (1.0M tetrahydrofuran solution 800 mL, 0.80M) was added to a solution of 3-aminopyridine (34.2 g, 0.36 mmol) in tetrahydrofuran (800 mL), followed by stirring for two hours. A solution of di-tert-butyl dicarbonate in tetrahydrofuran (200 mL) was added thereto and stirred for 30 minutes. Water was added, extracted with ethyl acetate, and the organic layer was washed with 1N hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crystals were washed with hexane, to give the title compound (55.0 g) as white crystals.

reactant | Sodium bis(trimethylsilyl)amide | 1.0M, 800 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-aminopyridine | 0.36 mmol, 34.2 g | NC=1C=NC=CC1 | C5H6N2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-(3-pyridyl)carbamate | 55.0 g | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
